US08877782B2
6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide
As described for example 8b, 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (103 mg, 0.3 mmol), instead of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid, was converted, using isopropylamine instead of methylamine, to the title compound (88 mg, 76%) which was obtained as an off white solid. MS: m/e=368.0 [M+H]+.

reactant | 6-[3-(4-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.3 mmol, 103 mg | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13ClN2O4
reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide | 88 mg, 76% | ClC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC(C)C)C=C1)C | C20H20ClN3O3
